US03992389
4-Benzamido-1-methyl-1-(4-phenyl-4-oxobutyl)piperidinium iodide
A solution of 4-benzamido-1-(4-phenyl-4-oxobutyl)-piperidine (1.75 g., 0.005 mole) and iodomethane (7.10 g., 0.05 mole) in N,N-dimethylformamide (5 ml.) was stirred for 150 hours at room temperature. The reaction mixture was filtered and the residue was washed with fresh N,N-dimethylformamide and then diethyl ether.

reactant | 4-benzamido-1-(4-phenyl-4-oxobutyl)-piperidine | 0.005 mole, 1.75 g | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C22H26N2O2
reactant | iodomethane | 0.05 mole, 7.10 g | IC | CH3I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-Benzamido-1-methyl-1-(4-phenyl-4-oxobutyl)piperidinium iodide | [I-].C(C1=CC=CC=C1)(=O)NC1CC[N+](CC1)(CCCC(=O)C1=CC=CC=C1)C | InChI=1S/C23H28N2O2.HI/c1-25(16-8-13-22(26)19-9-4-2-5-10-19)17-14-21(15-18-25)24-23(27)20-11-6-3-7-12-20;/h2-7,9-12,21H,8,13-18H2,1H3;1H
